US08012983B2
Step 2: Synthesis of compound (C) as described in the general reaction scheme; 3,6-Dibromo-pyrazin-2-ylamine.
Diphenylphosphorylazide (2.59 mL, 12 mmol) and triethylamine (1.67 mL, 12 mmol) are added to a solution of 3,6-dibromo-pyrazin-2-carboxylic acid (3.52 g, 12 mmol) in t-butanol (90 mL). The reaction is heated at reflux for 18 hours. The reaction is quenched with water, then concentrated in vacuo and taken up in DCM. The organic solution is washed with water and 1N NaOH, dried over MgSO4 and concentrated in vacuo. The resultant solid is filtered through a pad of silica using EtOAc, then concentrated and TFA:DCM (4:1, 12 mL) is added to the solid and stirred for 30 min. The solution is concentrated in vacuo then neutralised with 1N NaOH and extracted with DCM. The organic layer is dried over anhydrous MgSO4 and concentrated in vacuo to give the product. 1H NMR (250 MHz, DMSO-d6) δ(ppm) 7.25 (br s, 2H), 7.68 (s, 1H); m/z (APCI) 254 (M+H)+; m.p 135-139° C.

reactant | Diphenylphosphorylazide | 12 mmol, 2.59 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 3,6-dibromo-pyrazin-2-carboxylic acid | 12 mmol, 3.52 g | BrC=1C(=NC(=CN1)Br)C(=O)O | C5H2Br2N2O2
solvent | t-butanol | 90 mL | C(C)(C)(C)O | C4H10O
product | 3,6-Dibromo-pyrazin-2-ylamine | BrC=1C(=NC(=CN1)Br)N | C4H3Br2N3
